US07560468B2
N-tert-Butyloxycarbonylpiperidone (5.9 g, 29.8 mmol) and triethylamine (3.02 g, 29.8 mmol) were added to a solution of methioninamide hydrochloride (5.5 g, 29.8 mmol) in dry EtOH (66 ml), and the mixture was heated under reflux for 2.5 h. After addition of water (50 ml) and CH2Cl2 (200 ml), the organic phase was separated off, and the aqueous phase was extracted with CH2Cl2 (3×20 ml). The combined organic phases were dried over Na2SO4. After filtration, the solvent was removed by distillation. tert-Butyl 3-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate was obtained in a yield of 8.0 g (82% of theory).

reactant | N-tert-Butyloxycarbonylpiperidone | 29.8 mmol, 5.9 g | C(C)(C)(C)OC(=O)N1C(CCCC1)=O | C10H17NO3
reactant | triethylamine | 29.8 mmol, 3.02 g | C(C)N(CC)CC | C6H15N
reactant | methioninamide hydrochloride | 29.8 mmol, 5.5 g | Cl.N[C@@H](CCSC)C(=O)N
reactant | water | 50 ml | O | H2O
solvent | EtOH | 66 ml | CCO | C2H6O
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate | CSCCC1C(NC2(N1)CCN(CC2)C(=O)OC(C)(C)C)=O | C15H27N3O3S
